US07781591B2
Treatment of 1-(4-fluoro-2,3-dihydro-indol-1-yl)-ethanone, prepared from 4-fluoroindole (See e.g., EP 0645385A1), with concentrated H2SO4 and fuming HNO3 in glacial acetic acid gave 1-(4-fluoro-5-nitro-2,3-dihydro-indol-1-yl)-ethanone. Deprotection of the acetyl group with Na2S in aqueous ethanol provided 4-fluoro-5-nitro-2,3-dihydro-1H-indole, which was treated with 2,3-dicyano-5,6-dichloro-parabenzoquinone (DDQ) to provide 4-fluoro-5-nitroindole. A subsequent hydrogenation over Pd/C gave 5-amino-4-fluoroindole.

reactant | 1-(4-fluoro-2,3-dihydro-indol-1-yl)-ethanone | FC1=C2CCN(C2=CC=C1)C(C)=O | C10H10FNO
reactant | 4-fluoroindole | FC1=C2C=CNC2=CC=C1 | C8H6FN
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(4-fluoro-5-nitro-2,3-dihydro-indol-1-yl)-ethanone | FC1=C2CCN(C2=CC=C1[N+](=O)[O-])C(C)=O | C10H9FN2O3
